US07173135B2
N-{(2E)-3-[4-(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylene dioxyphenyl]acryloyl}morpholine
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.196 g) was added to a mixture of (2E)-3-[4-(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylenedioxyphenyl]acrylic acid (0.35 g), morpholine (0.36 ml), N-methylmorpholine (0.112 ml), 1-hydroxybenzotriazole (0.112 ml), DMF (2 ml) and methylene chloride (10 ml) and the reaction mixture was stirred at ambient temperature for 12 hours. The resultant mixture was partitioned between methylene chloride and water. The organic layer was dried over magnesium sulphate and evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. The material so obtained was triturated under diethyl ether. There was thus obtained the title compound as a solid (0.031 g); NMR Spectrum: (DMSOd6) 3.66 (s, 8H), 3.96 (s, 6H), 6.09 (s, 2H), 6.87 (d, 1H), 7.19 (d, 1H), 7.28 (d, 1H), 7.34 (s, 1H), 7.49 (d, 1H), 7.77 (s, 1H), 8.48 (s, 1H), 9.63 (s, 1H); Mass Spectrum: M+H+ 489.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.196 g | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-3-[4-(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylenedioxyphenyl]acrylic acid | 0.35 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)/C=C/C(=O)O)OCO2)OC)OC | C22H17N3O6
reactant | morpholine | 0.36 ml | N1CCOCC1 | C4H9NO
reactant | N-methylmorpholine | 0.112 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.112 ml | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{(2E)-3-[4-(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylene dioxyphenyl]acryloyl}morpholine | 0.031 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)/C=C/C(=O)N1CCOCC1)OCO2)OC)OC | C26H24N4O6
